US07939539B2
To a solution of tert-butyl 3-[[1-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate (29 mg, 1 eq.) in dimethyl formamide (1 ml), was added 3-methylbenzyl bromide (8 μl, 1.2 eq.) and potassium carbonate (22 mg, 3 eq.). The reaction mixture was stirred at room temperature overnight. Water was added and the material was extracted into ethyl acetate. Ethyl acetate layer was washed with water, saturated sodium carbonate, saturated sodium chloride, dried over magnesium sulfate, filtered, and evaporated. The product was purified by flash chromatography to give tert-butyl 3-[[1-[7-chloro-3-(3-methylbenzyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate.

reactant | tert-butyl 3-[[1-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate | 29 mg, 1 eq. | ClC1=CC=C2C(NC(=NC2=C1)C(C(=O)N(C)C)N(CCCNC(OC(C)(C)C)=O)C(C1=CC=C(C=C1)C)=O)=O | C28H34ClN5O5
reactant | 3-methylbenzyl bromide | 8 μl, 1.2 eq. | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | potassium carbonate | 22 mg, 3 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | tert-butyl 3-[[1-[7-chloro-3-(3-methylbenzyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate | ClC1=CC=C2C(N(C(=NC2=C1)C(C(=O)N(C)C)N(CCCNC(OC(C)(C)C)=O)C(C1=CC=C(C=C1)C)=O)CC1=CC(=CC=C1)C)=O | C36H42ClN5O5
